US04410354
Embodiment XXI--2-Ethyl-2-((2-pyridinyl)methoxymethyl)-1,8-dioxaspiro[4.5]decane
Following procedures similar to Embodiments XVII-XIX, 1.10 g of 2-ethyl-1,8-dioxaspiro[4.5]decane-2-methanol was treated with 1.35 g of 2-picolinyl chloride hydrochloride in the presence of sodium hydride to yield 1.00 g of the desired product as pale yellow liquid.

reactant | 2-ethyl-1,8-dioxaspiro[4.5]decane-2-methanol | 1.10 g | C(C)C1(OC2(CC1)CCOCC2)CO | C11H20O3
reactant | 2-picolinyl chloride hydrochloride | 1.35 g | Cl.N1=C(C=CC=C1)CCl
reactant | sodium hydride | [H-].[Na+]
product | 2-Ethyl-2-((2-pyridinyl)methoxymethyl)-1,8-dioxaspiro[4.5]decane | 1.00 g | C(C)C1(OC2(CC1)CCOCC2)COCC2=NC=CC=C2 | C17H25NO3
